US09193710B2
Methyl 4-((tert-butoxycarbonyl)amino)-3-nitrobenzoate
The title compound was prepared from the methyl 4-amino-3-nitrobenzoate (prepared by esterification of commercially available 4-amino-3-nitrobenzoic acid [CAS-No. 1588-83-6] (2.4 g, 12 mmol) and Boc2O (3.0 g, 14 mmol) according to the general procedure A. Obtained as a yellow solid (2.5 g, 69%), MS (EI) 300 [(M+1)+] and 227{[(M-C(CH3)3]+}.

reactant | methyl 4-amino-3-nitrobenzoate | NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H8N2O4
reactant | 4-amino-3-nitrobenzoic acid | 12 mmol, 2.4 g | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | Boc2O | 14 mmol, 3.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | Methyl 4-((tert-butoxycarbonyl)amino)-3-nitrobenzoate | C(C)(C)(C)OC(=O)NC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C13H16N2O6
